US03936470
A mixture of 11.7 parts of 2-bromo-4'-chloroacetophenone, 11.9 parts of 1-(4-chloro-o-tolyloxy)-2,3-propanediol, 2.5 parts of p-toluenesulfonic acid and 240 parts of benzene is stirred and refluxed for 24 hours in a four-necked round-bottomed flask equipped with a watertrap. The benzene solution is washed successively with a diluted sodium hydroxide solution and with water. The solvent is removed in vacuo. The residue is crystallized from methanol and the less pure fraction is recrystallized from diisopropylether, yielding A-2-(bromomethyl-2-(p-chlorophenyl)-4-(4-chloro-o-tolyloxymethyl)-1,3-dioxolane; m.p. 102.5°C. The methanol filtrate is evaporated in vacuo, yielding B-2-(bromomethyl)-2-(p-chlorophenyl)-4-(4-chloro-o-tolyloxymethyl)-1,3-dioxolane as a residue.

reactant | 2-bromo-4'-chloroacetophenone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 1-(4-chloro-o-tolyloxy)-2,3-propanediol | ClC1=CC(=C(C=C1)C)OCC(CO)O | C10H13ClO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | bromomethyl-2-(p-chlorophenyl)-4-(4-chloro-o-tolyloxymethyl)-1,3-dioxolane | BrCC1(OCC(O1)COC1=C(C=CC(=C1)Cl)C)C1=CC=C(C=C1)Cl | C18H17BrCl2O3
